US04064347
2,7-bis(piperidinoacetyl)fluorene dihydrochloride
A mixture of 19.0g (0.06 mole) of 2,7-bis(chloroacetyl)fluorene, 10.2g (0.12 mole) of piperidine and 25.4g (0.24 mole) of sodium carbonate in 300 ml of tetrahydrofuran was gently refluxed with stirring for 36 hours then filtered and concentrated in vacuo. The residue was extracted with ether and this solution was treated with ethereal hydrogen chloride to give the desired product which was recrystallized from methanol-butanone-ether. M.P. 302°-304° C (dec.), λmaxH2O 337, E1cm1% 834.

reactant | 2,7-bis(chloroacetyl)fluorene | 0.06 mole, 19.0g | ClCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCl)=O | C17H12Cl2O2
reactant | piperidine | 0.12 mole, 10.2g | N1CCCCC1 | C5H11N
reactant | sodium carbonate | 0.24 mole, 25.4g | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2,7-bis(piperidinoacetyl)fluorene dihydrochloride | Cl.Cl.N1(CCCCC1)CC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CN1CCCCC1)=O | InChI=1S/C27H32N2O2.2ClH/c30-26(18-28-11-3-1-4-12-28)20-7-9-24-22(15-20)17-23-16-21(8-10-25(23)24)27(31)19-29-13-5-2-6-14-29;;/h7-10,15-16H,1-6,11-14,17-19H2;2*1H
